* University of Toronto ECE331/354 model library
* Jul 25, 2011

* ALD ALD1101 (NMOS) and ALD 1102 (NMOS) model
* This model was extracted from measurements.
* The model is correct only for W = 1738 um and L = 1 um.
* The device size above doesn't represent the actual device size.

* NMOS hand analysis values: Vtn = 0.71 V; UnCox(W/L) = 4.5 mA/V^2 ; VA = 80 V;
.MODEL ALD1101 NMOS LEVEL = 2 UO = 12.72 VTO = 0.6766 NFS = 1.154E12 TOX = 1E-08 NSUB = 3.892E17 UCRIT = 4.582E05 UEXP = 0.07025 VMAX = 6363 RS = 9.491 RD = 5.659 XJ = 4.787E-09 LD = 0 DELTA = 1E-12 NEFF = 0.8345 NSS = -3.801 CGSO = 1.15E-9 CGDO = 1.15E-9 CGBO = 0 CBD = 0 CBS = 0 CJ = 0 MJ = 0.5  CJSW = 0 MJSW = 0.6057 IS = 1.0E-14 PB = 0.8 FC = 0.5 NEFF=5

* PMOS hand analysis values: Vtn = -0.65 V; UpCox(W/L) = 2.10 mA/V^2 ; VA = -19 V;
.MODEL ALD1102 PMOS LEVEL = 2 UO = 5.536 VTO = -0.6093 NFS = 3.602E12 TOX = 1E-08 NSUB = 4.046E16 UCRIT = 8.118E04 UEXP = 0.1647 VMAX = 1399 RS = 9.249 RD = 38.77 XJ = 4.443E-09 LD = 0 DELTA = 8828 NEFF = 2.145 NSS = -8.793 CGSO = 1.15E-9 CGDO = 1.15E-9 CGBO = 0 CBD = 0 CBS = 0 CJ = 0 MJ = 0.5 CJSW = 0 MJSW = 0.33 IS = 1E-14 PB = 0.8 FC = 0.5

*Feb 16, 2010
*Doc. ID: 90162, Rev. A
*File Name: part irf510_PS.txt and part irf510_PS.spi
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product data sheet.  Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT IRF510_EX 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 24, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.82703 LAMBDA=0 KP=2.48457
+CGSO=1.72132e-06 CGDO=5.99235e-11
RS 8 3 0.276929
D1 3 1 MD
.MODEL MD D IS=6.52734e-11 RS=0.0458243 N=1.2565 BV=100
+IBV=0.00025 EG=1.2 XTI=1 TT=0
+CJO=2.98645e-10 VJ=0.774158 M=0.422859 FC=0.5
RDS 3 1 4e+06
RD 9 1 0.0673242
RG 2 7 13.1694
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.85121e-10 VJ=0.500044 M=0.651006 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.40332e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS

*Mar 22, 2010
*Doc. ID: 90310, Rev. A
*File Name: part irf9510_sihf9510_PS.txt and part irf9510_sihf9510_PS.spi
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT IRF9510_EX 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jun  5, 00
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-3.38895 LAMBDA=0.0140708 KP=1.32543
+CGSO=1.86082e-06 CGDO=1e-11
RS 8 3 0.274259
D1 1 3 MD
.MODEL MD D IS=0.000633894 RS=0.126663 N=12.7812 BV=100
+IBV=0.0001 EG=1.2 XTI=1 TT=0.0001
+CJO=3.13356e-10 VJ=0.908437 M=0.419645 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.410416
RG 2 7 19.4242
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.20563e-10 VJ=3.09325 M=0.847483 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.36922e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS

